### PR TITLE
Optimize proof RUs

### PR DESCRIPTION
**Pull request by john-h-kastner-aws**
Reduces proofs over 10,000,000 RU limit from 12 to 6.

The first commit tweaks some proofs in `model.dfy`. The second commit hides some common preconditions in `model.dfy` behind `opaque`. 

Before:
```
validation.thm.soundness.SemanticSoundnessProof.SoundIn (correctness)(Passed) - Duration = 00:00:19.0112924, Resource Count = 23905971
validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:20.4276508, Resource Count = 21252770
validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:16.1544087, Resource Count = 20447879
validation.thm.model.CallSafe (correctness)(Passed) - Duration = 00:00:16.4184827, Resource Count = 19604861
validation.thm.model.InSetFalseTypes (correctness)(Passed) - Duration = 00:00:11.1384372, Resource Count = 18854443
validation.thm.model.InterpretRecordLemmaOk (correctness)(Passed) - Duration = 00:00:17.8690448, Resource Count = 18617886
validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:14.7439875, Resource Count = 17814454
validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:23.4532100, Resource Count = 16979533
validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:14.7334905, Resource Count = 15451607
validation.thm.soundness.SemanticSoundnessProof.SoundContains (correctness)(Passed) - Duration = 00:00:13.0147554, Resource Count = 13884065
validation.thm.model.DecimalComparisonSafe (correctness)(Passed) - Duration = 00:00:10.1198876, Resource Count = 12154290
validation.thm.soundness.SemanticSoundnessProof.SoundLike (correctness)(Passed) - Duration = 00:00:14.4489338, Resource Count = 10872901
Proofs Over threshold: 12
```

After:
```
validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:14.1801322, Resource Count = 14727577
validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:11.2315846, Resource Count = 12361170
validation.thm.soundness.SemanticSoundnessProof.SoundEqAux (correctness)(Passed) - Duration = 00:00:14.0085325, Resource Count = 11894526
validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:10.9589261, Resource Count = 11373800
validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:20.4325853, Resource Count = 10249359
validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:12.6768589, Resource Count = 10182414
Proofs Over threshold: 6
```

### CODE REVIEW

File: cedar-dafny/validation/thm/model.dfy [hunk 1]
```diff
@@ -46,11 +46,24 @@ module validation.thm.model {
     if (es[0].0 == k && (forall j | 0 < j < |es| :: es[j].0 != k)) then es[0].1 else LastOfKey(k,es[1..])
   }
 
+  lemma InterpretRecordPreservesAttrs(es: seq<(Attr, Expr)>, r: Request, s: EntityStore)
+    requires Evaluator(r,s).interpretRecord(es).Ok?
+    ensures forall i :: 0 <= i < |es| ==> es[i].0 in Evaluator(r,s).interpretRecord(es).value.Keys
+    ensures forall k | k in Evaluator(r,s).interpretRecord(es).value.Keys :: KeyExists(k,es)
+  {
+    if es != [] {
```
Comment (shaobo-he-aws) [inline cedar-dafny/validation/thm/model.dfy:54]: Nit: maybe `|es| == 0` looks better?

File: cedar-dafny/validation/thm/model.dfy [hunk 2]
```diff
@@ -46,11 +46,24 @@ module validation.thm.model {
...
+      var m := Evaluator(r,s).interpretRecord(es[1..]).value;
+      if es[0].0 !in m.Keys { } else { }
```
Comment (shaobo-he-aws) [inline cedar-dafny/validation/thm/model.dfy:56]: Do we need this since the then and else branches are empty?

File: cedar-dafny/validation/thm/model.dfy [hunk 3]
```diff
@@ -837,6 +854,23 @@ module validation.thm.model {
     ensures eval.interpretList(es).Err? ==> exists i :: 0 <= i < |es| && eval.interpret(es[i]).Err? && eval.interpret(es[i]).error == eval.interpretList(es).error && (forall j | 0 <= j < i :: eval.interpret(es[j]).Ok?)
   {}
 
+  lemma InterpretListEnsuresOk(eval: Evaluator, es: seq<Expr>)
```
Comment (shaobo-he-aws) [inline cedar-dafny/validation/thm/model.dfy:857]: Nit: I was wondering if it makes sense if pull out lemmas related to the evaluator to its own files. I think other features could use these lemmas as well.

**Review by shaobo-he-aws — APPROVED** [review]
LGTM.

File: cedar-dafny/validation/thm/model.dfy (hunk 3 above)
Comment (shaobo-he-aws) [reply cedar-dafny/validation/thm/model.dfy:857]: @emina what do you think?

File: cedar-dafny/validation/thm/model.dfy (hunk 1 above)
Comment (emina) [reply cedar-dafny/validation/thm/model.dfy:54]: FWIW, I prefer John's approach:  compare directly to the empty value.

File: cedar-dafny/validation/thm/model.dfy (hunk 3 above)
Comment (emina) [reply cedar-dafny/validation/thm/model.dfy:857]: Sounds good to me, especially if we have several of these.

**Review by khieta — APPROVED** [review]
Lgtm. Maybe let @shaobo-he-aws merge #57 first, so you can check that it doesn't impact your optimizations?

**Comment by shaobo-he-aws** [comment]
> Lgtm. Maybe let @shaobo-he-aws merge #57 first, so you can check that it doesn't impact your optimizations?

I'll merge #57 first and rebase this PR.

**Comment by shaobo-he-aws** [comment]
I merged it with latest main. Testing performance.

**Comment by shaobo-he-aws** [comment]
This is what I got after the merge.

```
eval.basic.RecordSemanticsOk (correctness)(Passed) - Duration = 00:00:16.8844200, Resource Count = 30192881
validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:15.2345180, Resource Count = 16762920
validation.thm.model.InSetFalseIfAllFalse (correctness)(Passed) - Duration = 00:00:10.4338360, Resource Count = 16217671
validation.thm.soundness.SemanticSoundnessProof.SoundIn (correctness)(Passed) - Duration = 00:00:15.7755000, Resource Count = 15770570
validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:21.7412230, Resource Count = 13088003
validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:16.2079690, Resource Count = 12598793
validation.thm.model.CallSafe (correctness)(Passed) - Duration = 00:00:13.4661700, Resource Count = 11660947
validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:14.0878330, Resource Count = 10901920
validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:11.9047790, Resource Count = 10754971
```

@john-h-kastner-aws could you double check the stats on your machine?

**Comment by john-h-kastner-aws** [comment]
Current Main:
```
eval.basic.RecordSemanticsOk (correctness)(Passed) - Duration = 00:00:18.8412908, Resource Count = 30192881
validation.thm.soundness.SemanticSoundnessProof.SoundIn (correctness)(Passed) - Duration = 00:00:15.6949186, Resource Count = 19397302
validation.thm.model.InSetFalseTypes (correctness)(Passed) - Duration = 00:00:11.3604829, Resource Count = 18854443
validation.thm.model.InSetFalseIfAllFalse (correctness)(Passed) - Duration = 00:00:10.7142318, Resource Count = 16217671
validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:13.3910586, Resource Count = 16129038
validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:14.7857703, Resource Count = 14862031
validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:16.4438896, Resource Count = 13778261
validation.thm.model.CallSafe (correctness)(Passed) - Duration = 00:00:11.3478283, Resource Count = 13356158
validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:23.2482459, Resource Count = 12856603
validation.thm.model.DecimalComparisonSafe (correctness)(Passed) - Duration = 00:00:10.4121549, Resource Count = 12154290
validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:13.8904569, Resource Count = 12075923
validation.thm.soundness.SemanticSoundnessProof.SoundSet (correctness)(Passed) - Duration = 00:00:13.5645865, Resource Count = 12012923
validation.thm.soundness.SemanticSoundnessProof.SoundContainsAnyAll (correctness)(Passed) - Duration = 00:00:11.5115105, Resource Count = 11266261
validation.thm.soundness.SemanticSoundnessProof.SoundEqAux (correctness)(Passed) - Duration = 00:00:12.9607236, Resource Count = 11175170
Proofs Over threshold: 14
```

This branch:
```
eval.basic.RecordSemanticsOk (correctness)(Passed) - Duration = 00:00:18.8260030, Resource Count = 30192881
validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:14.1309227, Resource Count = 16762920
validation.thm.model.InSetFalseIfAllFalse (correctness)(Passed) - Duration = 00:00:11.1074051, Resource Count = 16217671
validation.thm.soundness.SemanticSoundnessProof.SoundIn (correctness)(Passed) - Duration = 00:00:13.2538734, Resource Count = 15770570
validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:21.8588269, Resource Count = 13088003
validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:14.2970731, Resource Count = 12598793
validation.thm.model.CallSafe (correctness)(Passed) - Duration = 00:00:10.2894398, Resource Count = 11660955
validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:11.9787785, Resource Count = 10901940
validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:10.4822933, Resource Count = 10754971
Proofs Over threshold: 9
```

so, this is now 14 -> 9 proofs over instead of 12 -> 6. Seems alright. We should look at why `RecordSemanticsOk` is bad now, but that can be a different PR.

**Comment by shaobo-he-aws** [comment]
> Current Main:
> 
> ```
> eval.basic.RecordSemanticsOk (correctness)(Passed) - Duration = 00:00:18.8412908, Resource Count = 30192881
> validation.thm.soundness.SemanticSoundnessProof.SoundIn (correctness)(Passed) - Duration = 00:00:15.6949186, Resource Count = 19397302
> validation.thm.model.InSetFalseTypes (correctness)(Passed) - Duration = 00:00:11.3604829, Resource Count = 18854443
> validation.thm.model.InSetFalseIfAllFalse (correctness)(Passed) - Duration = 00:00:10.7142318, Resource Count = 16217671
> validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:13.3910586, Resource Count = 16129038
> validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:14.7857703, Resource Count = 14862031
> validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:16.4438896, Resource Count = 13778261
> validation.thm.model.CallSafe (correctness)(Passed) - Duration = 00:00:11.3478283, Resource Count = 13356158
> validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:23.2482459, Resource Count = 12856603
> validation.thm.model.DecimalComparisonSafe (correctness)(Passed) - Duration = 00:00:10.4121549, Resource Count = 12154290
> validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:13.8904569, Resource Count = 12075923
> validation.thm.soundness.SemanticSoundnessProof.SoundSet (correctness)(Passed) - Duration = 00:00:13.5645865, Resource Count = 12012923
> validation.thm.soundness.SemanticSoundnessProof.SoundContainsAnyAll (correctness)(Passed) - Duration = 00:00:11.5115105, Resource Count = 11266261
> validation.thm.soundness.SemanticSoundnessProof.SoundEqAux (correctness)(Passed) - Duration = 00:00:12.9607236, Resource Count = 11175170
> Proofs Over threshold: 14
> ```
> 
> This branch:
> 
> ```
> eval.basic.RecordSemanticsOk (correctness)(Passed) - Duration = 00:00:18.8260030, Resource Count = 30192881
> validation.thm.soundness.SemanticSoundnessProof.SoundCall (correctness)(Passed) - Duration = 00:00:14.1309227, Resource Count = 16762920
> validation.thm.model.InSetFalseIfAllFalse (correctness)(Passed) - Duration = 00:00:11.1074051, Resource Count = 16217671
> validation.thm.soundness.SemanticSoundnessProof.SoundIn (correctness)(Passed) - Duration = 00:00:13.2538734, Resource Count = 15770570
> validation.thm.soundness.SemanticSoundnessProof.SoundEq (correctness)(Passed) - Duration = 00:00:21.8588269, Resource Count = 13088003
> validation.thm.soundness.SemanticSoundnessProof.SoundGetAttr (correctness)(Passed) - Duration = 00:00:14.2970731, Resource Count = 12598793
> validation.thm.model.CallSafe (correctness)(Passed) - Duration = 00:00:10.2894398, Resource Count = 11660955
> validation.thm.soundness.SemanticSoundnessProof.SoundHasAttr (correctness)(Passed) - Duration = 00:00:11.9787785, Resource Count = 10901940
> validation.thm.soundness.SemanticSoundnessProof.SoundInSetMemberFalse (correctness)(Passed) - Duration = 00:00:10.4822933, Resource Count = 10754971
> Proofs Over threshold: 9
> ```
> 
> so, this is now 14 -> 9 proofs over instead of 12 -> 6. Seems alright. We should look at why `RecordSemanticsOk` is bad now, but that can be a different PR.

Thanks. I just fixed `RecordSemanticsOk`.

**Review by andrewmwells-amazon — APPROVED** [review]
